US05151497
The crystals (2.0 g) of 2-ethoxycarbonyl-4-methyl-5-oxopyrrolidine in the above-mentioned stage B were dissolved in a 2N sodium hydroxide solution (6 ml), and the solution was stirred at room temperature overnight. The mixture was neutralized with dilute hydrochloric acid, followed by concentration under reduced pressure. The residue was crystallized from water to give 4-methylpyroglutamic acid isomer A (900 mg) as crystals.

reactant | 2-ethoxycarbonyl-4-methyl-5-oxopyrrolidine | 2.0 g | C(C)OC(=O)C1NC(C(C1)C)=O | C8H13NO3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 6 ml | [OH-].[Na+]
product | 4-methylpyroglutamic acid | CC1C[C@H](NC1=O)C(=O)O | C6H9NO3
